US07932272B2
2-Amino-6-chloro-N-(4-phenylaminomethyl-benzyl)-nicotinamide
To a solution of (4-aminomethyl-benzyl)-phenylamine described in Preparation Example 21 (369 mg, 1.74 mmol) and 2-amino-6-chloro-nicotinic acid (300 mg, 1.74 mmol) in N,N-dimethylformamide (10 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (924 mg, 2.09 mmol) and triethylamine (0.49 mL, 3.48 mmol), and the solution was stirred overnight at room temperature. Ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water, and then, dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by silica gel column chromatography (hexane:ethyl acetate), and the title compound (479 mg, 75%) was obtained as a pale yellow solid.

reactant | (4-aminomethyl-benzyl)-phenylamine | NCC1=CC=C(CNC2=CC=CC=C2)C=C1 | C14H16N2
reactant | 2-amino-6-chloro-nicotinic acid | 1.74 mmol, 300 mg | NC1=C(C(=O)O)C=CC(=N1)Cl | C6H5ClN2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 2.09 mmol, 924 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.48 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-chloro-N-(4-phenylaminomethyl-benzyl)-nicotinamide | 479 mg, 75% | NC1=C(C(=O)NCC2=CC=C(C=C2)CNC2=CC=CC=C2)C=CC(=N1)Cl | C20H19ClN4O
